US07202245B2
(8-Fluoro-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxalin-4-ylamino)-acetic acid ethyl ester
A solution of 152 mg of 4-chloro-8-fluoro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, 127 mg of glycine ethyl ester hydrochloride, and 602 mg of triethylamine in DMF (4.0 mL) was stirred at room temperature for 41 hrs. The reaction mixture was concentrated, dissolved in 25% IPA/methylene chloride and washed with 50% saturated sodium bicarbonate, and then water. The organic emulsion was collected and concentrated to provide a yellow solid. A solution of this solid in trifluoroethanol (10 mL) was treated with 5 equiv. of 4.0 N HCl in dioxane for 15 min., and the mixture was concentrated. The residue was dissolved in 20% IPA/methylene chloride, and washed with 50% saturated sodium bicarbonate, and then water. The organic emulsion was collected and concentrated to provide a yellow solid which was triturated. The resulting off-white solid was collected, dried, washed with ether and dried to provide the title compound. MS (M+H)+=306.0.

reactant | 4-chloro-8-fluoro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 152 mg | ClC=1C=2N(C3=CC(=CC=C3N1)F)C(=NN2)OC | C10H6ClFN4O
reactant | glycine ethyl ester hydrochloride | 127 mg | Cl.C(C)OC(CN)=O
reactant | triethylamine | 602 mg | C(C)N(CC)CC | C6H15N
reactant | HCl | 4.0 N, 5 equiv. | Cl | ClH
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | trifluoroethanol | 10 mL | C(C(F)(F)F)O | C2H3F3O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (8-Fluoro-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxalin-4-ylamino)-acetic acid ethyl ester | C(C)OC(CNC=1C=2N(C3=CC(=CC=C3N1)F)C(NN2)=O)=O | C13H12FN5O3
